US07683064B2
4-Bromo-6-chloro-2H-pyridazin-3-one (5.02 g, 23.97 mmol) was dissolved in 40 ml dimethylformamide. Cesium carbonate (9.37 g, 28.76 mmol) was added. After 5 min, iodomethane (5.103 g, 35.95 mmol) was added dropwise over 20 min. The reaction mixture was stirred 3 hours at room temperature. The precipitate was filtered off and concentrated and the resulting residue was treated with 20 ml dichloromethane. The insoluble material was filtered off again and washed with dichloromethane. The filtrate was concentrated in vacuo to yield 4-Bromo-6-chloro-2-methyl-2H-pyridazine-3-one (5.223 g, 23.37 mmol). MS (ESI) 224.9 (M+H)+

reactant | 4-Bromo-6-chloro-2H-pyridazin-3-one | 23.97 mmol, 5.02 g | BrC=1C(NN=C(C1)Cl)=O | C4H2BrClN2O
reactant | Cesium carbonate | 28.76 mmol, 9.37 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 35.95 mmol, 5.103 g | IC | CH3I
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-Bromo-6-chloro-2-methyl-2H-pyridazine-3-one | 23.37 mmol, 5.223 g | BrC=1C(N(N=C(C1)Cl)C)=O | C5H4BrClN2O
